US05852051
a) Boc-Proline (p-cyanobenzyl)amide
276 g of Boc-Pro-OSu (0.88 mol) were introduced into 2 l of methylene chloride at 0° C. To this solution were added successively 163.9 g of 4-cyanobenzylamine hydrochloride (0.97 mol) and 230 ml of diisopropylethylamine (1.34 mol). The suspension was stirred in a melting ice bath for 48 h and then filtered. The filtrate was extracted with 20% strength NaHSO4 solution (4×), saturated NaHCO3 solution (3×) and saturated sodium chloride solution (2×), dried and evaporated in a rotary evaporator. Recrystallization of the residue from methyl tert-butyl ether resulted in isolation of 261 g (90%) of white crystals, m.p. 124°-125° C.

reactant | Boc-Pro-OSu | 0.88 mol, 276 g | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OC(C)(C)C | C14H20N2O6
reactant | 4-cyanobenzylamine hydrochloride | 0.97 mol, 163.9 g | Cl.C(#N)C1=CC=C(CN)C=C1
reactant | diisopropylethylamine | 1.34 mol, 230 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
product | Boc-Proline (p-cyanobenzyl)amide | 261 g, 90% | C(#N)C1=CC=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C=C1 | C18H23N3O3
